US06787498B2
10.2. Preparation of 1-(2-methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadienylchromium(III) dichloride
0.3 g of 1-(2-methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadiene (1.14 mmol) in 30 ml of THF was deprotonated using 0.45 ml of n-butyllithium (2.5 M in hexane, 1.14 mmol). After the mixture had been stirred for two hours, the red solution was added dropwise to a suspension of chromium(III) chloride in 20 ml of THF. After the mixture had been stirred at room temperature for 16 hours, the solvents were evaporated off, and the resultant residue was taken up in 20 ml of toluene. The green suspension was filtered, and the residue was extracted a number of times with hot toluene. Conventional work-up gave the product as a green powder (0.22 g) in a yield of 50%.

reactant | 1-(2-methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadiene | 1.14 mmol, 0.3 g | CC1=NC2=C(C=CC=C2C=C1)C1=C(C(=C(C1C)C)C)C | C19H21N
reactant | n-butyllithium | 1.14 mmol, 2.5 M, 0.45 ml | C(CCC)[Li]
reactant | chromium(III) chloride | [Cl-].[Cr+3].[Cl-].[Cl-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(2-methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadienylchromium(III) dichloride | 0.22 g, yield of 50% | [Cl-].[Cl-].CC1=NC2=C(C=CC=C2C=C1)C1(C(=C(C(=C1C)C)C)C)[Cr+2] | InChI=1S/C19H20N.2ClH.Cr/c1-11-9-10-16-7-6-8-17(19(16)20-11)18-14(4)12(2)13(3)15(18)5;;;/h6-10H,1-5H3;2*1H;/q;;;+2/p-2
